US06916819B2
A mixture of 1-(4-amino-3-ethylamino-phenyl)-ethanone (300 mg, 1.69 mmol) and 2-chloroacetamidine hydrochloride (804 mg, 5.1 mmol) in acetonitrile (20 mL) is refluxed for 3 hours. Solvent is removed and the residue is treated with NaHCO3 (5%, 20 mL) and DCM (50 mL). The organic layer is separated and the aqueous layer is extracted with DCM (2×40 mL). The combined organic layers are dried and solvent removed to give 1-(2-Chloromethyl-3-ethyl-3H-benzoimidazol-5-yl)-ethanone.

reactant | 1-(4-amino-3-ethylamino-phenyl)-ethanone | 1.69 mmol, 300 mg | NC1=C(C=C(C=C1)C(C)=O)NCC | C10H14N2O
reactant | 2-chloroacetamidine hydrochloride | 5.1 mmol, 804 mg | Cl.ClCC(=N)N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-(2-Chloromethyl-3-ethyl-3H-benzoimidazol-5-yl)-ethanone | ClCC=1N(C2=C(N1)C=CC(=C2)C(C)=O)CC | C12H13ClN2O
